US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(3-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
A solution (5 mL) of N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (130 mg, 0.40 mmol), 1-(3-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (120 mg, 0.48 mmol), HATU (180 mg, 0.48 mmol) and N,N-diisopropylethylamine (100 mg, 0.80 mmol) in N,N-dimethylformamide was stirred at room temperature for 5 hr. The reaction solution was divided into two layers with tetrahydrofuran (10 mL) and saturated aqueous sodium hydrogen carbonate solution (10 mL) and the aqueous layer was subjected to extraction (3 times) with ethyl acetate (15 ml). The combined organic layer was washed with water (15 mL) and saturated brine (15 mL), dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate and collected by filtration to give the title compound (80 mg, 35%) as a brown solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.40 mmol, 5 mL, 130 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 1-(3-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.48 mmol, 120 mg | FC=1C=C(C=CC1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
reactant | HATU | 0.48 mmol, 180 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.80 mmol, 100 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-(3-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 80 mg, 35% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C(=CC2)C)C2=CC(=CC=C2)F)=O)F)C1 | C30H23F2N5O4
